US08138340B2
4-[3-(tert-Butyldimethylsilanyloxy)propyl]thiazole
A sol. of 3-thiazol-4-yl-propan-1-ol (610 mg, 4.26 mmol), DIPEA (1.82 mL, 10.7 mmol), DMAP (catalytic amount) and TBDMS-Cl (964 mg, 6.40 mmol) in CH2Cl2 (12 mL) was stirred at rt for 1 h. The mixture was diluted with more CH2Cl2, and washed with aq. 1M HCl, aq. sat. NaHCO3, and brine. The org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 1:9→2:8→1:1) yielded the title compound (996 mg, 91%). LC-MS: tR=1.06, ES+: 258.18.

reactant | 3-thiazol-4-yl-propan-1-ol | 4.26 mmol, 610 mg | S1C=NC(=C1)CCCO | C6H9NOS
reactant | DIPEA | 10.7 mmol, 1.82 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBDMS-Cl | 6.40 mmol, 964 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-(tert-Butyldimethylsilanyloxy)propyl]thiazole | 996 mg, 91% | [Si](C)(C)(C(C)(C)C)OCCCC=1N=CSC1 | C12H23NOSSi
